US08835659B2
Preparation of 2-(4-fluorophenyl)-4,6-dimethoxy-1-benzofuran, with the Following Structural Formula
This compound was prepared using Method A from 3,5-dimethoxyphenol and 2-bromo-1-(4-fluorophenyl)ethanone: Yield 49% following procedure A.2; m.p. 142-143° C.; IR 2914, 1614, 1496, 1220, 1145, 1116, 1043 cm−1; 1H-NMR (200 MHz, δ ppm, CDCl3) 7.74 (dd, J=8.8 Hz, 5.4 Hz, 2H), 7.10 (t, J=8.7 Hz, 2H), 6.96 (s, 1H), 6.68 (s, 1H), 6.33 (d, J=1.7 Hz, 1H), 3.89 (d, J=11.3 Hz, 6H); 13C-NMR (126 MHz, δ ppm, CDCl3) 162.6 (d, J=247.7 Hz), 159.5, 156.8, 153.7, 153.0, 127.4 (d, J=3.0 Hz), 126.2 (d, J=8.0 Hz), 115.9 (d, J=22.0 Hz), 113.5, 98.7, 94.6, 88.5, 55.9, 55.8.

reactant | 3,5-dimethoxyphenol | COC=1C=C(C=C(C1)OC)O | C8H10O3
reactant | 2-bromo-1-(4-fluorophenyl)ethanone | BrCC(=O)C1=CC=C(C=C1)F | C8H6BrFO
product | 2-(4-fluorophenyl)-4,6-dimethoxy-1-benzofuran | Yield 49% | FC1=CC=C(C=C1)C=1OC2=C(C1)C(=CC(=C2)OC)OC | C16H13FO3
